US06559164B1
A suspension consisting of 0.5 g (1.25 mmole) of 3-(1-methyl-3-indolyl)-4-(1-methyl-6-nitro-3-indolyl)-1H-pyrrole-2,5-dione (See Davis U.S. Pat. No. 5,057,614), 4.0 ml of formaldehyde solution (37% w/w), and 2.0 ml of water was heated to 125° C. with stirring and with a reflux condensed attached for 14 hours. The reaction mixture was cooled and diluted with water. The red solid was filtered, washed with water and dried. The solid was purified by chromatography using silica gel and a mixture of EtOAc/Hexane as elutant to afford 1-hydroxymethyl-3-(1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-pyrrole-2,5-dione (mp=209-211° C.).

reactant | 3-(1-methyl-3-indolyl)-4-(1-methyl-6-nitro-3-indolyl)-1H-pyrrole-2,5-dione | 1.25 mmole, 0.5 g | CN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)=O)=O | C22H16N4O4
reactant | formaldehyde | 4.0 ml | C=O | CH2O
solvent | water | O | H2O
solvent | water | 2.0 ml | O | H2O
product | 1-hydroxymethyl-3-(1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-pyrrole-2,5-dione | OCN1C(C(=C(C1=O)C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)C1=CN(C2=CC=CC=C12)C)=O | C23H18N4O5
